US06844344B2
Preparation of (2S)-1-(4-Benzo[b]furanoxy)-3-(4-(3-ethylbenzo[b]thiophen-2-yl)-piperidin-1-yl)-2-propanol Hydrate.
A solution 4-hydroxy-4-(3-ethylbenzo[b]thiophen-2-yl)piperidine (0.067 g, 0.273 mmol) and (S)-(+)-4-(oxiranylmethoxy)benzo[b]-furan (0.052 g, 0.273 mmol) in methanol (3 mL) was heated at reflux for 18 hours, and then cooled and evaporated. The residue was purified using silica gel chromatography (dichloromethane/2% methanol in dichloromethane gradient elution) to give the final title compound as a yellow oil (0.049 g, 41%). FDMS m/e=436 (M++1). C26H29NO3S.0.75H2O

reactant | 4-hydroxy-4-(3-ethylbenzo[b]thiophen-2-yl)piperidine | 0.273 mmol, 0.067 g | OC1(CCNCC1)C1=C(C2=C(S1)C=CC=C2)CC | C15H19NOS
reactant | (S)-(+)-4-(oxiranylmethoxy)benzo[b]-furan | 0.273 mmol, 0.052 g | O1[C@@H](C1)COC1=CC=CC=2OC=CC21 | C11H10O3
solvent | methanol | 3 mL | CO | CH4O
product | (2S)-1-(4-Benzo[b]furanoxy)-3-(4-(3-ethylbenzo[b]thiophen-2-yl)-piperidin-1-yl)-2-propanol Hydrate | 0.049 g, 41% | O.O1C2=C(C=C1)C(=CC=C2)OC[C@H](CN2CCC(CC2)C2=C(C1=C(S2)C=CC=C1)CC)O | InChI=1S/C26H29NO3S.H2O/c1-2-20-21-6-3-4-9-25(21)31-26(20)18-10-13-27(14-11-18)16-19(28)17-30-24-8-5-7-23-22(24)12-15-29-23;/h3-9,12,15,18-19,28H,2,10-11,13-14,16-17H2,1H3;1H2/t19-;/m0./s1
